US04371720
7-Oxabicyclo[4.1.0]-1-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-heptanone ethylene ketal
To a 0° C. solution of 5.0 g. (11.2 mmole) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-3-en-1-one ethylene ketal in 15 ml. of dichloromethane is added 1.26 g. (15 mmole) of sodium bicarbonate and 2.58 g. (15 mmole) of m-chloroperbenzoic acid. The reaction is stirred overnight at 0° C. and then filtered. The filtrate is diluted with 200 ml. of ether and washed with two 100 ml. portions of saturated sodium bicarbonate. The organic extract is dried over magnesium sulfate and evaporated to yield the title compound.

reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-3-en-1-one ethylene ketal | 11.2 mmole | C1COC2(CC(=CCC2)C2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)O1 | C30H40O3
reactant | sodium bicarbonate | 15 mmole | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 15 mmole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-heptanone ethylene ketal | C1COC(CCC2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)(CCCC)O1 | C31H46O3
